US05958942
iv) Synthesis of 4,5-dihydro-2-ethyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride
In a mixture solvent consisting of 2 ml of ethanol and 0.05 ml of 12N HCl was dissolved 110 mg (0.26 mmol) of 4,5-dihydro-2-ethyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one. The solvent was distilled off under reduced pressure to leave 120 mg of the desired compound (100%, pale yellow solid).

reactant | HCl | 12N, 0.05 ml | Cl | ClH
reactant | 4,5-dihydro-2-ethyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 0.26 mmol, 110 mg | C(C)C=1N=C2C=CC=C3CN(C(C1N23)=O)CCCCCNS(=O)(=O)C(F)(F)F | C17H21F3N4O3S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-ethyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride | 120 mg, 100% | Cl.C(C)C=1N=C2C=CC=C3CN(C(C1N23)=O)CCCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C17H21F3N4O3S.ClH/c1-2-13-15-16(25)23(11-12-7-6-8-14(22-13)24(12)15)10-5-3-4-9-21-28(26,27)17(18,19)20;/h6-8,21H,2-5,9-11H2,1H3;1H
